US04196300
α-Hydroxymethylpalmitic acid
Anhydrous tetrahydofuran (THF) (825 ml) and 49.5 g (0.49 mole) of diisopropylamine were added to a dry three neck flask purged with nitrogen and maintained under a nitrogen atmosphere. After cooling the mixture to -20°, 300 ml of n-butyllithium in hexane (1.6 M) (0.49 mole) was added slowly to prevent the temperature from exceeding 0° and then 79.3 ml of anhydrous hexamethylphosphoramide (HMPA) (0.44 mole) was added. A solution of 51.28 g of palmitic acid (0.198 mole) in 400 ml of THF was added dropwise with stirring while maintaining the reaction temperature below 0°. A milky white suspension resulted after the addition of palmitic acid. The reaction mixture was brought to about 40° by using a warm water bath. The suspension changed to a clear solution as the temperature gradually reached 40°. This system was then connected to a formaldehyde generating system. Paraformaldehyde (40 g) was heated in a three neck flask at 180°-200° to generate formaldehyde and the formaldehyde vapors were carried by a stream of nitrogen over the surface of the stirred solution of α-lithiated lithium palmitate prepared previously. The reaction was terminated after complete depolymerization of paraformaldehyde (2 to 21/2 hrs.). The reaction solution was cooled in an ice bath and neutralized with hydrochloric acid until acidic. The organic layer was separated and was concentrated under reduced pressure on a rotavac to remove most of the THF solvent. The resulting oily residue was dissolved in 2 liters of ether and was washed three times with 10% hydrochloric acid solution and then twice with water. The ether layer was dried over Na2SO4 and the solvents were removed under reduced pressure to give 43.3 g (75%) of crude product, α-hydroxymethylpalmitic acid, which was recrystallized once from acetone to give 39.0 g (69% yield) of the product with m.p. 67°-71°, which was used without further purification in the next synthetic step.

reactant | diisopropylamine | 0.49 mole, 49.5 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 300 ml | C(CCC)[Li]
reactant | hexane | 0.49 mole, 1.6 M | CCCCCC | C6H14
reactant | hexamethylphosphoramide | 0.44 mole, 79.3 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | palmitic acid | 0.198 mole, 51.28 g | C(CCCCCCCCCCCCCCC)(=O)O | C16H32O2
reactant | formaldehyde | C=O | CH2O
reactant | Paraformaldehyde | 40 g | C=O | CH2O
reactant | lithium palmitate | C(CCCCCCCCCCCCCCC)(=O)[O-].[Li+]
solvent | THF | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydofuran | 825 ml | O1CCCC1 | C4H8O
product | α-Hydroxymethylpalmitic acid | 39.0 g, 69% yield | OCC(C(=O)O)CCCCCCCCCCCCCC | C17H34O3
